US07465712B2
To a solution of 2-(4-methoxybenzyl)phenol (46 mg) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (0.13 g) in dichloromethane (2 mL) was added boron trifluoride diethyl ether complex (0.033 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by column chromatography on aminopropyl silica gel (eluent: dichloromethane) to give 2-(4-methoxybenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (0.11 g).

reactant | 2-(4-methoxybenzyl)phenol | 46 mg | COC1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C14H14O2
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 0.13 g | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(4-methoxybenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 0.11 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)OC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C28H32O11
